US06211215B1
In substantially the same manner as in Working Example 72, 1-[3-(4-hydroxyphenyl)propyl]imidazole was allowed to react with 4-chloromethyl-2-(3-chloro-2-thienyl)oxazole to give 2-(3-chloro-2-thienyl)-4-[4-[3-(1-imidazolyl)propyl]phenoxymethyl]oxazole. The yield was 77%. Recrystallization from ethyl acetate-hexane gave colorless prisms, mp 69-70° C.

reactant | 1-[3-(4-hydroxyphenyl)propyl]imidazole | OC1=CC=C(C=C1)CCCN1C=NC=C1 | C12H14N2O
reactant | 4-chloromethyl-2-(3-chloro-2-thienyl)oxazole | ClCC=1N=C(OC1)C=1SC=CC1Cl | C8H5Cl2NOS
product | 2-(3-chloro-2-thienyl)-4-[4-[3-(1-imidazolyl)propyl]phenoxymethyl]oxazole | yield was 77% | ClC1=C(SC=C1)C=1OC=C(N1)COC1=CC=C(C=C1)CCCN1C=NC=C1 | C20H18ClN3O2S
